US06916813B2
N-(Diphenylmethyl)-N′-[1-(2,4-dichlorophenyl)-2-(imidazol-1-yl) ethyl]-N″-(thiazol-2-yl)guanidine hydrochloride
To a stirred solution of 2-aminothiazole (100 mg) in acetonitrile (3 mL) was added thiocarbonyl dimidazole (180 mg, 1.0 mmol). The mixture was allowed to stir at rt for 2 h and at 65° C. for 5 h, and then 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)ethylamine (250 mg, 1.0 mmol) was added. This was allowed to stir for 5 h at 65° C. The mixture was cooled to rt, and diphenylmethylamine was added, followed by TEA and mercuric chloride. The suspension was allowed to stir at rt for 3 h and filtered. The filtrate was concentrated and the residue purified by column chromatography (EtOAc, MeOH, NH4OH; 90:10:0.1) to give after conversion to HCT salt, the title compound as a yellow solid (100 mg). MS (ES): m/z 547 [M+H]+.

reactant | 2-aminothiazole | 100 mg | NC=1SC=CN1 | C3H4N2S
reactant | thiocarbonyl dimidazole | 1.0 mmol, 180 mg | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | 1-(2,4-dichlorophenyl)-2-(imidazol-1-yl)ethylamine | 1.0 mmol, 250 mg | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)N | C11H11Cl2N3
reactant | diphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-(Diphenylmethyl)-N′-[1-(2,4-dichlorophenyl)-2-(imidazol-1-yl) ethyl]-N″-(thiazol-2-yl)guanidine hydrochloride | 100 mg | Cl.C1(=CC=CC=C1)C(NC(=NC=1SC=CN1)NC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | InChI=1S/C28H24Cl2N6S.ClH/c29-22-11-12-23(24(30)17-22)25(18-36-15-13-31-19-36)33-27(35-28-32-14-16-37-28)34-26(20-7-3-1-4-8-20)21-9-5-2-6-10-21;/h1-17,19,25-26H,18H2,(H2,32,33,34,35);1H
